*
.SUBCKT BDL32 1 2 3
* housing parasitics
LBlead 2 22 1.63E-09
LE 3 333 4.1E-09
LC 1 11 4.1E-10
LBbond 22 222 2.5E-09
CBCG 222 11 1.76E-13
CBEG 222 333 8.6E-14
CCEG 11 333 1.76E-13
Q1 11 222 333 BDL32
.MODEL BDL32 PNP(
+ IS = 1.234E-12
+ NF = 1.006
+ ISE = 5.054E-14
+ NE = 1.336
+ BF = 408.8
+ IKF = 2.02
+ VAF = 19.82
+ NR = 1.009
+ ISC = 7.617E-13
+ NC = 1.4
+ BR = 84.9
+ IKR = 0.2
+ VAR = 15
+ RB = 91.32
+ IRB = 6.471E-06
+ RBM = 0.1
+ RE = 0.1609
+ RC = 0.001
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.429E-10
+ VJE = 1
+ MJE = 0.5228
+ TF = 7E-10
+ XTF = 24
+ VTF = 3
+ ITF = 5
+ PTF = 0
+ CJC = 2.693E-10
+ VJC = 0.9239
+ MJC = 0.4635
+ XCJC = 1
+ TR = 1.2E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78)
.ENDS
*